* try temper

* (exec-spice "ngspice %s" t)

.model dplain d is={temper >= 25 ? 1e-10 : (temper+1)*1e-11}
.model dref   d is=1e-10


Iin  1 0  dc = -1mA
Dref 1 0  dref
e2   2 0 1 0 1
D2   2 0  dplain
e3   3 0 1 0 1
D3   3 0  dref area={temper >= 25 ? (temper+100)/100 : 2 }

.control
dc temp 0 125 1.0
plot e2#branch/@iin[dc]
plot e3#branch/@iin[dc]
*quit 0
.endc

.end
